US07259175B2
3-[4-(2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethoxy)-2-methyl-phenyl]-propionic acid
To a solution of 3-[4-(2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethoxy)-2-methyl-phenyl]-propionic acid tert-butyl ester (130 mg) in methylene chloride (1 mL) is added TFA (0.8 mL) and two drops of water. The mixture is stirred for 2 h, and concentrated and purified by reversed phase HPLC (water-acetonitrile with 0.1% TFA) yield 120 mg of product. MS (ES): 477.2(M++1).

reactant | 3-[4-(2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethoxy)-2-methyl-phenyl]-propionic acid tert-butyl ester | 130 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C=1C=NC(=CC1)C1=C(C=CC=C1)F)C)=O | C31H33FN2O3S
reactant | TFA | 0.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | water | two drops | O | H2O
product | 3-[4-(2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-ethoxy)-2-methyl-phenyl]-propionic acid | FC1=C(C=CC=C1)C1=CC=C(C=N1)C=1SC(=C(N1)CCOC1=CC(=C(C=C1)CCC(=O)O)C)C | C27H25FN2O3S
